US04248618
2-Chloro-5-methylpyrimidine (5.0 g) was finely powdered and dissolved in dry carbon tetrachloride (250 ml). The solution was treated with dry hydrogen chloride gas to precipitate the hydrochloride salt. The reaction mixture was heated to reflux and illuminated with an internal ultra-violet lamp whilst chlorine was bubbled through the stirred suspension. After 41/2 hours the solution was cooled and filtered and the filtrate concentrated under reduced pressure to give a semi-crystalline residue. The residue was dissolved in ether and filtered and the filtrate concentrated to a colourless oil which on standing gave crystals of 2-chloro-5-trichloromethylpyrimidine (8.9 g).

reactant | 2-Chloro-5-methylpyrimidine | 5.0 g | ClC1=NC=C(C=N1)C | C5H5ClN2
reactant | hydrogen chloride | Cl | ClH
reactant | carbon tetrachloride | 250 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | ether | CCOCC | C4H10O
product | 2-chloro-5-trichloromethylpyrimidine | 8.9 g | ClC1=NC=C(C=N1)C(Cl)(Cl)Cl | C5H2Cl4N2
